US04775675
3-Acetyl-2(S)-(2,4-dichlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
5.56 ml of acetic anhydride are given to a hot suspension containing 2-(2,4-dichlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid in 5.56 ml of water. The mixture is heated at 100° C. for 6 minutes, then cooled down and diluted with 10 ml of water. The crystalline precipitate is filtered to give the title compound in a yield of 2.57 g (73.8%). After recrystallization from a mixture of methanol and water, this acid melts at 233°-235° C., [α]d22 =-142.

reactant | acetic anhydride | 5.56 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2,4-dichlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | ClC1=C(C=CC(=C1)Cl)C1SC([C@@H](N1)C(=O)O)(C)C | C12H13Cl2NO2S
solvent | water | 5.56 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-Acetyl-2(S)-(2,4-dichlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C1=C(C=C(C=C1)Cl)Cl | C14H15Cl2NO3S
